US07781590B2
1.2. 3-{2-[1-(biphenyl-4-ylmethyl)piperidin-4-yl]ethyl}-1,3-oxazolidine-2,4-dione
A solution of 0.40 g (1.61 mmol) of 3-(2-piperidin-4-ylethyl)-1,3-oxazolidine-2,4-dione hydrochloride, prepared in step 1.1., 0.326 g (1.61 mmol) of 4-(chloromethyl)biphenyl and 0.51 g (4.82 mmol) of sodium carbonate in 3 ml of acetonitrile is heated at reflux for 17 hours. It is left to return to ambient temperature and filtered and the filtrate is concentrated under reduced pressure. The residue is taken up in dichloromethane and water and the aqueous phase is separated off and extracted twice with dichloromethane. The combined organic phases are washed with saturated aqueous sodium chloride solution and dried over sodium sulphate. Following evaporation of the solvent, the residue obtained is purified by chromatography on silica gel, eluting with a 97/3 then 95/5 mixture of dichloromethane and methanol.

reactant | 3-(2-piperidin-4-ylethyl)-1,3-oxazolidine-2,4-dione hydrochloride | 1.61 mmol, 0.40 g | Cl.N1CCC(CC1)CCN1C(OCC1=O)=O
reactant | 4-(chloromethyl)biphenyl | 1.61 mmol, 0.326 g | ClCC1=CC=C(C=C1)C1=CC=CC=C1 | C13H11Cl
reactant | sodium carbonate | 4.82 mmol, 0.51 g | C([O-])([O-])=O.[Na+].[Na+]
solvent | acetonitrile | 3 ml | C(C)#N | C2H3N
product | 3-{2-[1-(biphenyl-4-ylmethyl)piperidin-4-yl]ethyl}-1,3-oxazolidine-2,4-dione | C1(=CC=C(C=C1)CN1CCC(CC1)CCN1C(OCC1=O)=O)C1=CC=CC=C1 | C23H26N2O3
